2175-08-31 06:25:00 Physician Resident Progress Note
TITLE: TSICU PROGRESS NOTE
   Chief Complaint: s/p MVC
   24 Hour Events:
   Continued CVVHD
   L axillary Aline placed, DC'd
   Tube feeds held due to return from NGT
   Weaned vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2175-8-30**] 08:30 PM
   Ciprofloxacin - [**2175-8-30**] 10:00 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-8-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-30**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2175-8-31**] 05:15 AM
   Lorazepam (Ativan) - [**2175-8-31**] 05:15 AM
   Other medications:
   1. 2. 3. 4. 1000 mL LR 5. 20 gm Calcium Gluconate/ 500 mL D5W 6.
   Albuterol MDI 7. Amiodarone 8. Calcium Gluconate 9. Chlorhexidine
   Gluconate 0.12% Oral Rinse 10. Ciprofloxacin 11. Citrate Dextrose 3%
   (ACD-A) CRRT 12. Fluconazole 13. HYDROmorphone (Dilaudid) 14.
   HYDROmorphone (Dilaudid) 15. Heparin 16. Heparin Flush (5000 Units/mL)
   17. 18. Insulin 19. Lactulose 20. Lactulose Enema 21. Levothyroxine
   Sodium 22. Lorazepam 23. Magnesium Sulfate
   24. Mineral Oil 25. Norepinephrine 26. Ondansetron 27. Pantoprazole 28.
   Potassium Chloride 29. Potassium Chloride 10 mEq / 100 mL SW (CRRT
   Only) 30. Prismasate (B22 K4)* 31. Prismasate (B22 K4) 32. Sodium
   Chloride 0.9% Flush 33. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-31**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 77 (70 - 92) bpm
   BP: 113/66(87) {70/54(67) - 153/92(297)} mmHg
   RR: 24 (22 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.7 kg (admission): 90 kg
   Height: 62 Inch
    CVP: 16 (14 - 26)mmHg
   Bladder pressure: 24 (14 - 24) mmHg
   Total In:
                                                                  8,276 mL
                                                                  2,019 mL
   PO:
   TF:
                                                                    450 mL
                                                                     75 mL
   IVF:
                                                                  7,456 mL
                                                                  1,784 mL
   Blood products:
   Total out:
                                                                  9,486 mL
                                                                  2,231 mL
   Urine:
                                                                     84 mL
                                                                     35 mL
   NG:
                                                                    250 mL
                                                                    450 mL
   Stool:
   Drains:
                                                                    315 mL
                                                                     80 mL
   Balance:
                                                                 -1,210 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 37 cmH2O
   Plateau: 33 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L base, Rhonchorous: R base)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   567 K/uL
   10.0 g/dL
   112 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   97 mEq/L
   135 mEq/L
   30.2 %
   18.7 K/uL
        [image002.jpg]
                             [**2175-8-29**]  01:09 PM
                             [**2175-8-29**]  06:35 PM
                             [**2175-8-30**]  12:35 AM
                             [**2175-8-30**]  12:58 AM
                             [**2175-8-30**]  05:22 AM
                             [**2175-8-30**]  05:39 AM
                             [**2175-8-30**]  09:00 AM
                             [**2175-8-30**]  12:19 PM
                             [**2175-8-30**]  02:00 PM
                             [**2175-8-31**]  12:34 AM
   WBC
   22.5
   20.6
   20.6
   18.7
   Hct
   29.7
   26.7
   27.5
   28.9
   30.2
   Plt
   593
   535
   560
   567
   Cr
   3.0
   2.7
   2.5
   2.3
   2.2
   1.8
   TCO2
   29
   29
   Glucose
   111
   105
   97
   96
   93
   76
   81
   100
   94
   112
   Other labs: PT / PTT / INR:16.6/30.1/1.5, CK / CKMB /
   Troponin-T:1477/11/0.06, ALT / AST:44/75, Alk Phos / T Bili:126/4.8,
   Amylase / Lipase:44/42, Differential-Neuts:74.0 %, Band:2.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:603 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.0 g/dL, LDH:429 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Imaging: [**8-21**] CT torso/elbow: unchanged bibasilar airspace
   consolidation, incr free fluid in pelvis.  min displaced coronoid
   process fx.  Small avulsion fracture versus calcific tendinitis in the
   common extensor
   tendon adjacent to the lateral epicondyle (PRELIM)
   8/15 L elbow film: elbow dislocation; relocated
   [**8-16**] CTA: no definite dissection or pseudoaneurysm R vertebral artery
   [**8-15**] CT head: no ICH or ischemia
   [**8-15**] CT Cspine: C2 R transverse proc fx thru foramen transversarium
   [**8-15**] CT torso: L [**4-13**] rib fx, R [**2-11**] rib fx, comminuted
   sternal/manubrial fx, vague R posterior liver lobe hypodensity, TLS
   clear.
   [**8-15**] extremity films: R distal radial fx, L basal index finger fx
   [**8-15**] Abd US: coarse liver, no focal masses, trace ascites, no discrete
   collections, no bil dil.
   Microbiology: [**8-26**] peritoneal swab: ENTEROBACTER S to Cipro
   [**8-21**]: Cath tip NGTD
   [**8-20**]: BAL BILATERAL: MSSA S to Levo, YEAST 10,000-100,000
   [**8-19**]: Sputum:MSSA, OPF
   [**8-17**]: Sputum: MSSA, OPF
   [**8-15**] Urine: 10-100K E.
   Assessment and Plan
   ASSESSMENT AND PLAN: 79F s/p MVC intubated for flail chest; s/p exlap
   for spleenectomy, s/p ex-lap for G-tube perforation; with multiple
   ortho frx, acute renal failure.
   Neurologic: On Dilaudid PRN pain; Ativan PRN anxiety
   Cardiovascular: Pressure stabilized, off pressors; still on CVVH. Amio
   gtt for Afib, in sinus now.
   Pulmonary: Trach, Small pleural effusions; continue to follow; adequate
   oxygenation, wean support as tolerated, following venous BGs
   Gastrointestinal / Abdomen: s/p ex-lap with ileus/constipation, NG tube
   and [**Doctor Last Name 279**] tube in place; lactulose and mineral oil via [**Hospital Ward Name **] tube until
   +BS +Flatus
   Nutrition: TFs on hold, awaiting bowel movement
   Renal: Foley, CVVHD target negative 50/hr, anuric
   Hematology: Hct stable
   Endocrine: RISS
   Infectious Disease: Cipro/fluc for Enterobacter, yeast coverage
   Lines / Tubes / Drains: Foley, NGT, [**Doctor Last Name **] tube, Trach, JPs x2
   Wounds: Dry dressings, change [**Hospital1 **]
   Imaging: CXR today
   Fluids: CVVHD
   Consults: Trauma surgery, nephrology, plastics, ortho
   Billing Diagnosis: Respiratory failure
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2175-8-29**] 12:16 PM
   Multi Lumen - [**2175-8-29**] 12:19 PM
   Dialysis Catheter - [**2175-8-29**] 12:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin, IVC filter
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU